US06255496B1
4-[N-Dodecyl-N-[2-[4-(3,3-Dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]amino]butanoic acid, ethyl ester
A solution of N-[2-[4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]-ethyl]dodecanamine (2.0 g, 4.2 mmol) in methanol (50 ml) was treated with sodium cyanoborohydride (0.55 g, 8.4 mmol) and ethyl 4-oxobutyrate (1.04 g, 8.4 mmol). The resulting mixture was stirred at 22° C. for 16 h, diluted with diethyl ether (350 ml), washed with water (200 ml), brine (200 ml), dried over magnesium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel (hexane/AcOEt 9:1 to 6:1) to afford the title compound (1.8 g, 73%) as a liquid.

reactant | N-[2-[4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]-ethyl]dodecanamine | 4.2 mmol, 2.0 g | COC(CCC1=CC=C(OCCNCCCCCCCCCCCC)C=C1)(C(F)(F)F)OC | C26H44F3NO3
reactant | sodium cyanoborohydride | 8.4 mmol, 0.55 g | C(#N)[BH3-].[Na+]
reactant | ethyl 4-oxobutyrate | 8.4 mmol, 1.04 g | O=CCCC(=O)OCC | C6H10O3
solvent | methanol | 50 ml | CO | CH4O
solvent | diethyl ether | 350 ml | C(C)OCC | C4H10O
product | 4-[N-Dodecyl-N-[2-[4-(3,3-Dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]amino]butanoic acid, ethyl ester | 1.8 g, 73% | C(CCCCCCCCCCC)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)(OC)OC)CCCC(=O)OCC | C32H54F3NO5
